US06015806
A mixture of Testosterone acetate (available from Steraloids Inc, Wilton, N.H. USA) (3.3 g, 10 mmol.), aqueous formaldehyde (1 mL) and thiophenol (0.9 g, 8 mmol ) is stirred in triethanolamine (30 mL) for 10 h under an atmosphere of argon at 110° C. After 4 h. additional aqueous formaldehyde (0.7 mL) and thiophenol (0.5 mg) are added. After cooling, the mixture is poured in brine and extracted with methylene chloride. The organic phase is washed with dilute sodium hydroxide solution and with water, dried and evaporated. The residue is purified by chromatography on "flash" silica gel using mixtures of ethyl acetate and hexane as eluant. The purified residue in acetone (15 mL) is added to Raney nickel (35 g) in acetone (60 mL) which is heated at reflux since 1 h. The reflux is continued for 15 min. The hot organic phase is decanted and the metal is washed with hot acetone. The combined filtrates were concentrated and purified by chromatography on "flash" silica gel using a mixture of ethyl acetate and hexane as eluant. The purified residue is dissolved in methanolic potassium hydroxide solution (50 mL, 3%) and kept at room temperature for 4 h. under an atmosphere of argon. After concentration, the mixture is poured in water and extracted with methylene chloride. The organic phase is washed with brine, dried and evaporated to dryness. The residue, purified by chromatography on "flash" silica gel using a mixture of ethyl acetate and hexane as eluant, is dissolved in acetone (30 mL) and treated at 0° C. with a slight excess of Jones' reagent (8N chromium trioxide)(until a red color). After 15 min., isopropanol (1 mL) is added and the mixture is poured in brine and extracted with ethyl acetate. The organic phase is washed with brine, dried and evaporated to dryness. Purification of the residue by chromatography on "flash" silica gel using a mixture of ethyl acetate and hexane as eluant give pure 4-methyl-4-androsten-3,17-dione.

reactant | Testosterone acetate | 10 mmol, 3.3 g | CC(=O)O[C@H]1CC[C@@H]2[C@@]1(CC[C@H]3[C@H]2CCC4=CC(=O)CC[C@]34C)C | C21H30O3
reactant | formaldehyde | 1 mL | C=O | CH2O
reactant | thiophenol | 8 mmol, 0.9 g | C1(=CC=CC=C1)S | C6H6S
reactant | formaldehyde | 0.7 mL | C=O | CH2O
reactant | thiophenol | 0.5 mg | C1(=CC=CC=C1)S | C6H6S
solvent | triethanolamine | 30 mL | N(CCO)(CCO)CCO | C6H15NO3
solvent | brine | [Cl-].[Na+].O
product | 4-methyl-4-androsten-3,17-dione | CC1=C2CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CCC1=O)C)=O | C20H28O2
